US05434186
Using the procedure of example 11 and starting with 0.412 g (2.0 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one and 1.0 g (2.1 mmol) of 6-[6-[(methylsulfonyl)oxy]hexyl]-2-(5-methoxy-5-oxopentyloxy)benzenepropanoic acid methyl ester, 6-(5-methoxy-5-oxopentyloxy)-2-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic acid methyl ester was obtained in 83% yield (0.97 g) as a colorless oil. This diester (1.7 mmol) was saponified with 5 mL of 3N aqueous lithium hydroxide in 40 mL of tetrahydrofuran, at room temperature, for 20 hr. Work-up as in example 4 gave an oily acid which was flash-chromatographed on silica gel, eluting with 95:5:1 chloroform-methanol-acetic acid. There was obtained 0.76 g (81%) of pure 2-(4-carboxybutoxy)-6-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7 -yl)oxy]hexyl]benzenepropanoic acid. Recrystallization from hexane-ethyl acetate (2:1) gave 0.64 g (68%) of a colorless solid, mp 103°-104° C.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 2.0 mmol, 0.412 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 6-[6-[(methylsulfonyl)oxy]hexyl]-2-(5-methoxy-5-oxopentyloxy)benzenepropanoic acid methyl ester | 2.1 mmol, 1.0 g | COC(CCC1=C(C=CC=C1CCCCCCOS(=O)(=O)C)OCCCCC(=O)OC)=O | C23H36O8S
product | 6-(5-methoxy-5-oxopentyloxy)-2-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic acid methyl ester | 83% yield | COC(CCC1=C(C=CC=C1OCCCCC(=O)OC)CCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)=O | C34H46O8
